*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.2
* < ILD_dielectric_const = 4.5
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_0 1 2 3 4 REF
C_C1 1 REF 0.6135271156935pf
C_C2 1 2 18.833582007204pf
C_C3 1 3 0.030352704822pf
C_C4 1 4 0.2577605948712pf
C_C5 2 REF 0.8583221068759pf
C_C6 2 3 0.1314576682793pf
C_C7 3 REF 0.6830152539953pf
C_C8 3 4 5.0011297947645pf
C_C9 4 REF 0.6860367580552pf
L_L1 3 5 1.2974794418736nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_1 1 2 3 4 REF
C_C1 1 REF 0.5330859192557pf
C_C2 1 2 19.274458916718pf
C_C3 1 3 0.027882975759pf
C_C4 1 4 0.2627302439997pf
C_C5 2 REF 0.7861338050264pf
C_C6 2 3 0.1322913630459pf
C_C7 3 REF 0.6846773112631pf
C_C8 3 4 3.6898543214933pf
C_C9 4 REF 0.6853515422704pf
L_L1 3 5 1.2985347353585nh
R_RL1 5 4 1.6706901988e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_2 1 2 3 4 REF
C_C1 1 REF 0.4700492813234pf
C_C2 1 2 19.768868707335pf
C_C3 1 3 0.0253827583505pf
C_C4 1 4 0.2682560157123pf
C_C5 2 REF 0.7317628751347pf
C_C6 2 3 0.1332464394527pf
C_C7 3 REF 0.6862487603945pf
C_C8 3 4 2.7727700697263pf
C_C9 4 REF 0.6850634331899pf
L_L1 3 5 1.2994144285582nh
R_RL1 5 4 1.0543975804e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_3 1 2 3 4 REF
C_C1 1 REF 0.412150792391pf
C_C2 1 2 20.457041625479pf
C_C3 1 3 0.0222142934977pf
C_C4 1 4 0.2759818148206pf
C_C5 2 REF 0.6854020199585pf
C_C6 2 3 0.1346683769754pf
C_C7 3 REF 0.6880287401634pf
C_C8 3 4 1.98223321725pf
C_C9 4 REF 0.6850681338928pf
L_L1 3 5 1.3003054335148nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_4 1 2 3 4 REF
C_C1 1 REF 0.3653535367123pf
C_C2 1 2 21.36025936408pf
C_C3 1 3 0.018404124205pf
C_C4 1 4 0.2862361086259pf
C_C5 2 REF 0.6533932138947pf
C_C6 2 3 0.1367135317756pf
C_C7 3 REF 0.6898341878558pf
C_C8 3 4 1.3473929377832pf
C_C9 4 REF 0.6853493321656pf
L_L1 3 5 1.3011969721112nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_5 1 2 3 4 REF
C_C1 1 REF 0.3360888577014pf
C_C2 1 2 22.355528074719pf
C_C3 1 3 0.0145251542811pf
C_C4 1 4 0.2976800372862pf
C_C5 2 REF 0.6402820093453pf
C_C6 2 3 0.1391967301219pf
C_C7 3 REF 0.6912712892776pf
C_C8 3 4 0.9263211268592pf
C_C9 4 REF 0.685765288379pf
L_L1 3 5 1.3019178277867nh
R_RL1 5 4 -1.224724747e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_6 1 2 3 4 REF
C_C1 1 REF 0.318114975005pf
C_C2 1 2 23.448081943857pf
C_C3 1 3 0.0105168981845pf
C_C4 1 4 0.3103623065216pf
C_C5 2 REF 0.6400116989932pf
C_C6 2 3 0.1421578011208pf
C_C7 3 REF 0.6923611245018pf
C_C8 3 4 0.6371946121631pf
C_C9 4 REF 0.6862076801497pf
L_L1 3 5 1.3025105257093nh
R_RL1 5 4 -1.884134781e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_7 1 2 3 4 REF
C_C1 1 REF 0.3055595936499pf
C_C2 1 2 24.869305477751pf
C_C3 1 4 0.3269490909566pf
C_C4 2 REF 0.6504412281623pf
C_C5 2 3 0.1463044126748pf
C_C6 3 REF 0.6932439717131pf
C_C7 3 4 0.4058435522591pf
C_C8 4 REF 0.6866881565462pf
L_L1 3 5 1.3030700287914nh
R_RL1 5 4 -2.536496231e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_8 1 2 3 4 REF
C_C1 1 REF 0.2962796778005pf
C_C2 1 2 26.691080625331pf
C_C3 1 4 0.3482160572943pf
C_C4 2 REF 0.6704410482197pf
C_C5 2 3 0.1519574313378pf
C_C6 3 REF 0.6938471150445pf
C_C7 3 4 0.2271135536642pf
C_C8 4 REF 0.6871535986746pf
L_L1 3 5 1.3035961343822nh
R_RL1 5 4 -3.150385282e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_9 1 2 3 4 REF
C_C1 1 REF 0.2869910616pf
C_C2 1 2 29.079928294149pf
C_C3 1 4 0.3759514315606pf
C_C4 2 REF 0.6990398947038pf
C_C5 2 3 0.159769023413pf
C_C6 3 REF 0.6941239461317pf
C_C7 3 4 0.0948383375785pf
C_C8 4 REF 0.687571153643pf
L_L1 1 5 73.438599510492nh
R_RL1 5 2 4.1989606861066
L_L2 3 6 1.3040314279088nh
R_RL2 6 4 -3.636447536e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_10 1 2 3 4 REF
C_C1 1 REF 0.2735543150673pf
C_C2 1 2 32.231173161783pf
C_C3 1 4 0.4121754940778pf
C_C4 2 REF 0.7346490234055pf
C_C5 2 3 0.1704773745848pf
C_C6 3 REF 0.6940931158239pf
C_C7 4 REF 0.6879365076506pf
L_L1 1 5 45.894675872711nh
R_RL1 5 2 1.7556535220074
L_L2 3 6 1.3043862204787nh
R_RL2 6 4 -3.941724663e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_11 1 2 3 4 REF
C_C1 1 REF 0.2506748606718pf
C_C2 1 2 36.574915350719pf
C_C3 1 4 0.4614563829411pf
C_C4 2 REF 0.7778484418934pf
C_C5 2 3 0.1856539624695pf
C_C6 3 REF 0.6937811663353pf
C_C7 4 REF 0.6882766376418pf
L_L1 1 5 28.277901567864nh
R_RL1 5 2 0.3485510036362
L_L2 3 6 1.304200348817nh
R_RL2 6 4 -3.973449975e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_12 1 2 3 4 REF
C_C1 1 REF 0.2122834354967pf
C_C2 1 2 42.753049258254pf
C_C3 1 4 0.5306535957055pf
C_C4 2 REF 0.8314555862509pf
C_C5 2 3 0.2076000663124pf
C_C6 3 REF 0.6932412203052pf
C_C7 4 REF 0.6886539482457pf
L_L1 1 5 17.23499134006nh
R_RL1 5 2 -0.694874662326
L_L2 3 6 1.3038707500123nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_13 1 2 3 4 REF
C_C1 1 REF 0.1471481257792pf
C_C2 1 2 52.243982130903pf
C_C3 1 4 0.6358058399834pf
C_C4 2 REF 0.9052322204187pf
C_C5 2 3 0.2415938301743pf
C_C6 3 REF 0.6924927343991pf
C_C7 4 REF 0.6891939018247pf
R_R1 1 2 630.89846394814
L_L1 1 5 9.7777896892937nh
R_RL1 5 2 -0.18933919205
L_L2 3 6 1.3032894790686nh
R_RL2 6 4 -2.983243485e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_14 1 2 3 4 REF
C_C1 1 REF 0.0347734209771pf
C_C2 1 2 67.939669161172pf
C_C3 1 4 0.8084930837534pf
C_C4 2 REF 1.0202200368694pf
C_C5 2 3 0.2979272957999pf
C_C6 3 REF 0.6915179561072pf
C_C7 4 REF 0.6901371188512pf
R_R1 1 2 272.36886152073
L_L1 1 5 5.4269205567126nh
R_RL1 5 2 0.1477250872849
L_L2 3 6 1.3023526348901nh
R_RL2 6 4 -1.840446748e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_15 1 2 3 4 REF
C_C1 1 2 98.065343126417pf
C_C2 1 4 1.1387750334571pf
C_C3 2 REF 1.2364947853626pf
C_C4 2 3 0.4059376713431pf
C_C5 3 REF 0.6901389050846pf
C_C6 4 REF 0.6921332823794pf
R_R1 1 2 119.4527680499
L_L1 1 5 2.5659750566866nh
R_RL1 5 2 -0.312451768636
L_L2 3 6 1.3005510497492nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_16 1 2 3 4 REF
C_C1 1 2 177.38389148565pf
C_C2 1 4 2.007461018355pf
C_C3 2 REF 1.8057283685518pf
C_C4 2 3 0.6898499420963pf
C_C5 3 REF 0.6874430519192pf
C_C6 4 REF 0.6978928561094pf
R_R1 1 2 41.375714098486
L_L1 1 5 0.9692446729699nh
R_RL1 5 2 -0.163415785222
L_L2 1 6 44.351940403979nh
R_RL2 6 3 -0.172106032868
L_L3 1 7 43.633422095065nh
R_RL3 7 4 -0.17333546836
L_L4 2 8 44.457451451123nh
R_RL4 8 3 0.0113005363222
L_L5 2 9 43.742277521954nh
R_RL5 9 4 0.0110495580007
L_L6 3 10 1.2959624148994nh
R_RL6 10 4 1.445735538e-5
Kn_K1 L_L1 L_L2 0.065868353529
Kn_K2 L_L1 L_L3 0.0661513373968
Kn_K3 L_L1 L_L4 -0.081863588244
Kn_K4 L_L1 L_L5 -0.082786911989
Kn_K5 L_L2 L_L3 0.9853035594243
Kn_K6 L_L2 L_L4 0.9890869348402
Kn_K7 L_L2 L_L5 0.9742719083849
Kn_K8 L_L2 L_L6 -0.132855826243
Kn_K9 L_L3 L_L4 0.9743661605603
Kn_K10 L_L3 L_L5 0.9889079272436
Kn_K11 L_L3 L_L6 0.0383949508779
Kn_K12 L_L4 L_L5 0.9853388964661
Kn_K13 L_L4 L_L6 -0.132477777638
Kn_K14 L_L5 L_L6 0.0385692419388
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_17 1 2 3 4 REF
C_C1 1 2 581.91053338415pf
C_C2 1 4 6.436705083064pf
C_C3 2 REF 4.7159568218156pf
C_C4 2 3 2.1377757414852pf
C_C5 3 REF 0.6763208767948pf
C_C6 4 REF 0.7291413771553pf
R_R1 1 REF -583.3336700866
R_R2 1 2 5.9991869779456
R_R3 1 4 477.3817949346
R_R4 2 REF 572.42719912508
R_R5 2 4 -477.6574316888
L_L1 1 5 23.219545898787nh
R_RL1 5 REF -0.507245881184
L_L2 1 6 0.1997394645602nh
R_RL2 6 2 -0.061977600416
L_L3 1 7 11.074516315816nh
R_RL3 7 3 -0.048185326998
L_L4 1 8 10.406285390505nh
R_RL4 8 4 -0.050322555889
L_L5 2 9 23.08619103766nh
R_RL5 9 REF -0.608324127549
L_L6 2 10 11.118963235736nh
R_RL6 10 3 6.3718393529e-4
L_L7 2 11 10.455230270609nh
R_RL7 11 4 7.5758991361e-4
L_L8 3 12 34.061377785893nh
R_RL8 12 REF -0.58031331863
L_L9 3 13 1.2729205146781nh
R_RL9 13 4 1.6752488983e-5
L_L10 4 14 33.385071880367nh
R_RL10 14 REF -0.583442347324
Kn_K1 L_L1 L_L2 0.0773354179785
Kn_K2 L_L1 L_L5 0.9956906361498
Kn_K3 L_L1 L_L8 0.8215126217681
Kn_K4 L_L1 L_L10 0.8296468807463
Kn_K5 L_L2 L_L3 0.0522067053154
Kn_K6 L_L2 L_L4 0.0522968995699
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081927058281
Kn_K9 L_L2 L_L7 -0.086043825065
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9411970005164
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9910020707857
Kn_K15 L_L3 L_L7 0.931775451606
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.258503481344
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9323046298088
Kn_K21 L_L4 L_L7 0.9904281836206
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0830718700403
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.820711605134
Kn_K26 L_L5 L_L10 0.8287563641684
Kn_K27 L_L6 L_L7 0.9414436429635
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.257388497596
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0834936753744
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1480132330848
Kn_K35 L_L8 L_L10 0.9811762738826
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_18 1 2 3 4 REF
C_C1 1 REF 17.819024915871pf
C_C2 1 3 8.61935812646pf
C_C3 2 4 26.318682320941pf
C_C4 3 REF 0.7522931509528pf
C_C5 4 REF 0.492817628542pf
R_R1 1 REF -975.7653234969
R_R2 1 2 2.3935797127349
R_R3 1 3 -414.3945795925
R_R4 1 4 279.19465123078
R_R5 2 REF 924.59957079312
R_R6 2 3 414.42988814373
R_R7 2 4 -279.298414411
L_L1 1 5 4.2251281051769nh
R_RL1 5 REF -0.020267473127
L_L2 1 6 0.2214161965805nh
R_RL2 6 2 -0.239537543781
L_L3 1 7 2.7884270064623nh
R_RL3 7 3 -0.093648008737
L_L4 1 8 2.2234025276976nh
R_RL4 8 4 -0.131353672613
L_L5 2 9 4.4065515782559nh
R_RL5 9 REF -0.233347044482
L_L6 2 10 2.7285159272343nh
R_RL6 10 3 -0.032536220592
L_L7 2 11 2.128300448971nh
R_RL7 11 4 -0.015434318633
L_L8 3 12 7.0080266090725nh
R_RL8 12 REF -0.094707407241
L_L9 3 13 1.1642935806467nh
R_RL9 13 4 -3.078260982e-3
L_L10 4 14 6.4511159661254nh
R_RL10 14 REF -0.12983786098
Kn_K1 L_L1 L_L2 0.0206740875524
Kn_K2 L_L1 L_L5 0.9745637132734
Kn_K3 L_L1 L_L8 0.7759573360156
Kn_K4 L_L1 L_L10 0.8095345097377
Kn_K5 L_L2 L_L3 0.1790183342837
Kn_K6 L_L2 L_L4 0.2255563479907
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.103893494032
Kn_K9 L_L2 L_L7 -0.092002734639
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0346549807209
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7726165440498
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9599227460001
Kn_K16 L_L3 L_L7 0.7319487076212
Kn_K17 L_L3 L_L8 0.9551644359739
Kn_K18 L_L3 L_L9 -0.479881479975
Kn_K19 L_L3 L_L10 0.9964962472879
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.716799348741
Kn_K22 L_L4 L_L7 0.9493463735509
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1862308354297
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0183189626978
Kn_K27 L_L5 L_L7 0.0136715147434
Kn_K28 L_L5 L_L8 0.7815299796643
Kn_K29 L_L5 L_L10 0.8186267054091
Kn_K30 L_L6 L_L7 0.7661494152861
Kn_K31 L_L6 L_L8 0.9931888255273
Kn_K32 L_L6 L_L9 -0.494993388915
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.1791684452937
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.3012820688328
Kn_K38 L_L8 L_L10 0.9142772385759
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_19 1 2 3 4 REF
C_C1 1 2 989.22631219922pf
C_C2 1 4 10.919167011891pf
C_C3 2 REF 7.6960881245216pf
C_C4 2 3 3.5725717097734pf
C_C5 3 REF 0.6643171047853pf
C_C6 4 REF 0.760208004299pf
R_R1 1 REF 401.23223903397
R_R2 1 2 -2.169056728987
R_R3 1 3 487.32871096031
R_R4 1 4 -216.8993395225
R_R5 2 REF -411.3842061654
R_R6 2 3 -487.6167064082
R_R7 2 4 216.97769007397
L_L1 1 5 8.7438588783918nh
R_RL1 5 REF -0.098098601794
L_L2 1 6 0.0545440175114nh
R_RL2 6 2 0.023778189863
L_L3 1 7 4.80586339405nh
R_RL3 7 3 0.0071759084655
L_L4 1 8 4.1606425915115nh
R_RL4 8 4 0.0090717872032
L_L5 2 9 8.6729864252877nh
R_RL5 9 REF -0.08825579449
L_L6 2 10 4.8325331849896nh
R_RL6 10 3 0.0039947763922
L_L7 2 11 4.1943805865nh
R_RL7 11 4 0.002774702669
L_L8 3 12 13.465129643814nh
R_RL8 12 REF -0.10038527465
L_L9 3 13 1.229273289182nh
R_RL9 13 4 1.6597469818e-4
L_L10 4 14 12.81259618013nh
R_RL10 14 REF -0.099627917907
Kn_K1 L_L1 L_L2 0.0908028433147
Kn_K2 L_L1 L_L5 0.9968765715251
Kn_K3 L_L1 L_L8 0.8019372882627
Kn_K4 L_L1 L_L10 0.8217592141422
Kn_K5 L_L2 L_L3 0.027221594326
Kn_K6 L_L2 L_L4 0.0218376198595
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.0790931545
Kn_K9 L_L2 L_L7 -0.092285772147
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.013648386065
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.865146682036
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9943447722321
Kn_K16 L_L3 L_L7 0.8585559771413
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.385606323132
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.8604360743512
Kn_K22 L_L4 L_L7 0.9934798094064
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1291271167586
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.8006941087702
Kn_K27 L_L5 L_L10 0.8201481065368
Kn_K28 L_L6 L_L7 0.8659879964983
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.383090810533
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1301631426277
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2312679948239
Kn_K36 L_L8 L_L10 0.95351398311
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_20 1 2 3 4 REF
C_C1 1 2 121.4665908623pf
C_C2 1 4 1.3901688784904pf
C_C3 2 REF 1.4021204443171pf
C_C4 2 3 0.4889839726794pf
C_C5 3 REF 0.6859084694873pf
C_C6 4 REF 0.6900234718853pf
R_R1 1 2 -64.10984329789
L_L1 1 5 0.3178781071751nh
R_RL1 5 2 0.0329936481434
L_L2 1 6 31.757690941578nh
R_RL2 6 3 -0.018435407731
L_L3 1 7 31.00598185857nh
R_RL3 7 4 -0.01818615127
L_L4 2 8 32.029453600711nh
R_RL4 8 3 0.0183450490139
L_L5 2 9 31.286399022816nh
R_RL5 9 4 0.0174922107955
L_L6 3 10 1.2898254320828nh
R_RL6 10 4 8.0373002064e-5
Kn_K1 L_L1 L_L4 -0.092395842978
Kn_K2 L_L1 L_L5 -0.094858767082
Kn_K3 L_L2 L_L3 0.9795197465685
Kn_K4 L_L2 L_L4 0.9950256110466
Kn_K5 L_L2 L_L5 0.9743886929787
Kn_K6 L_L2 L_L6 -0.159491228817
Kn_K7 L_L3 L_L4 0.9747610305323
Kn_K8 L_L3 L_L5 0.9949070793727
Kn_K9 L_L3 L_L6 0.0425459258739
Kn_K10 L_L4 L_L5 0.9796961798097
Kn_K11 L_L4 L_L6 -0.158139920717
Kn_K12 L_L5 L_L6 0.0430360202036
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_21 1 2 3 4 REF
C_C1 1 REF 0.233268404693pf
C_C2 1 2 42.257406197384pf
C_C3 1 4 0.5192216379032pf
C_C4 2 REF 0.8345889013488pf
C_C5 2 3 0.2054326733478pf
C_C6 3 REF 0.6871588480663pf
C_C7 4 REF 0.6826740436661pf
R_R1 1 2 -442.7654352207
L_L1 1 5 0.7878665075766nh
R_RL1 5 2 -0.205550227821
L_L2 3 6 1.2956804770126nh
R_RL2 6 4 4.2149564251e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_22 1 2 3 4 REF
C_C1 1 REF 0.4016250190177pf
C_C2 1 2 20.185677872755pf
C_C3 1 3 0.04364657895pf
C_C4 1 4 0.2742062444239pf
C_C5 2 REF 0.6831305956791pf
C_C6 2 3 0.1242706474522pf
C_C7 3 REF 0.6871085156072pf
C_C8 4 REF 0.6801789619112pf
L_L1 1 5 1.0910137295802nh
R_RL1 5 2 -5.269060217e-3
L_L2 3 6 1.2951763053343nh
R_RL2 6 4 1.2788222151e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_23 1 2 3 4 REF
C_C1 1 REF 0.4703313970068pf
C_C2 1 2 11.788443432538pf
C_C3 1 3 0.0802550373739pf
C_C4 1 4 0.180025072599pf
C_C5 2 REF 0.6322495152546pf
C_C6 2 3 0.0910104596799pf
C_C7 3 REF 0.6862520486788pf
C_C8 4 REF 0.6783374284549pf
L_L1 1 5 1.594798580145nh
R_RL1 5 2 -0.036430663872
L_L2 3 6 1.2929889755275nh
R_RL2 6 4 -3.056177252e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_24 1 2 3 4 REF
C_C1 1 REF 0.5029935177903pf
C_C2 1 2 8.2663271712836pf
C_C3 1 3 0.1022914227753pf
C_C4 1 4 0.1386527429914pf
C_C5 2 REF 0.6160597058416pf
C_C6 2 3 0.0736459184039pf
C_C7 2 4 0.0484462106548pf
C_C8 3 REF 0.6844851291654pf
C_C9 4 REF 0.675874957287pf
L_L1 1 5 1.813120069396nh
R_RL1 5 2 1.0e-5
L_L2 3 6 1.2901687786607nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_25 1 2 3 4 REF
C_C1 1 REF 0.5218593963754pf
C_C2 1 2 7.0465082793883pf
C_C3 1 3 0.1217382206951pf
C_C4 1 4 0.1184040262185pf
C_C5 2 REF 0.6198960081989pf
C_C6 2 3 0.0599204672583pf
C_C7 2 4 0.0746875382288pf
C_C8 3 REF 0.6823527940594pf
C_C9 4 REF 0.6732294489748pf
L_L1 1 5 1.9131103376703nh
R_RL1 5 2 -8.456400436e-4
L_L2 3 6 1.2867063590469nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_26 1 2 3 4 REF
C_C1 1 REF 0.529385310915pf
C_C2 1 2 7.050052076311pf
C_C3 1 3 0.1361791950499pf
C_C4 1 4 0.1111897170353pf
C_C5 2 REF 0.6305860256121pf
C_C6 2 3 0.049977912508pf
C_C7 2 4 0.0866810014849pf
C_C8 3 REF 0.6806768570283pf
C_C9 4 REF 0.6711609387972pf
L_L1 1 5 1.8859064559335nh
R_RL1 5 2 4.8202507303e-5
L_L2 3 6 1.2852232880671nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param22_26

